US05861401
A solution of 2-amino-6-chloropyrazine (5.0 g) and N-bromosuccinimide (13.9 g) in chloroform (200 ml) was heated under reflux for 2 hours. Insoluble material was removed by filtration and the filtrate was concentrated by evaporation. The residue was purified by flash chromatography on silica gel, eluting with dichloromethane, to give 2-amino-5-bromo-6-chloropyrazine (1.5 g); m.p. 120°-122° C.; mass spectrum (+ve CI): 208 (M+H)+.

reactant | 2-amino-6-chloropyrazine | 5.0 g | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | N-bromosuccinimide | 13.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-5-bromo-6-chloropyrazine | 1.5 g | NC1=NC(=C(N=C1)Br)Cl | C4H3BrClN3
